US07569516B2
1-(2,6-Dichloro-4-trifluoromethylphenyl)-5-ethoxy-4-trifluoromethylthio-1H-pyrazole-3-carboxylic acid amide (Compound 3.3)
A stirred mixture of 1-(2,6-dichloro-4-trifluoromethylpheny)-5-ethoxy-4-trifluoromethylthio-1 H-pyrazole-3-carbonitrile (0.55 g, 1.22 mmol) and concentrated sulfuric acid (0.55 ml) was heated at 100° C. for 3 hours. The cooled mixture was added to ice water and the precipitate filtered off, washed with water and air-dried. The crude product was dissolved in heptanes/ethyl acetate (1:1) and filtered. The filtrate was evaporated to give the title compound (0.42 g, yield 73%) as yellowish crystals, mp 161° C., 1H NMR (CDCl3): 1.32 (t, 3H, CH3), 4.68 (q, 2H, OCH2), 5.54 and 6.69 (bs, 2H, C(O)NH2), and 7.77 (s, 2H, Ar—H).

reactant | 1-(2,6-dichloro-4-trifluoromethylpheny)-5-ethoxy-4-trifluoromethylthio-1 H-pyrazole-3-carbonitrile | 1.22 mmol, 0.55 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1OCC)SC(F)(F)F)C#N | C14H7Cl2F6N3OS
reactant | sulfuric acid | 0.55 ml | S(O)(O)(=O)=O | H2O4S
product | 1-(2,6-Dichloro-4-trifluoromethylphenyl)-5-ethoxy-4-trifluoromethylthio-1H-pyrazole-3-carboxylic acid amide | 0.42 g, yield 73% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1OCC)SC(F)(F)F)C(=O)N | C14H9Cl2F6N3O2S
